US09353075B2
Step 2. Preparation of pentyl-[(2S,3R)-2-methyl-4-oxooxetan-3-yl]-carbamate
In a four necked round bottom flask, Et3N (3.75 mL, 26.9 mmol) was added to a solution of (2R,3S)-3-hydroxy-2-{[(pentyloxy)carbonyl]amino}butanoic acid (2 g, 8.96 mmol) in dry CH2Cl2 (100 mL) under argon. After cooling at 0° C., PyBOP (6.1 g, 11.6 mmol) was added and the mixture stirred 3 h at 0° C., then 3.5 h at rt. The solvent was removed under vacuum and crude purified by typical silica gel column chromatography, eluting with Cy/AcOEt (from 95:5 to 60:40). The resulting white solid (0.539 g) was further triturated with cyclohexane, yielding a pure compound (0.434 g, 22.5%) as white solid. MS (ESI) m/z: 214.21 [M−H]−. FTIR (cm−1): 3323, 3074, 2958, 2931, 2871, 1854, 1692, 1545, 1471, 1391, 1334, 1270, 1150, 1126, 1087, 1025, 982, 844, 823. 1H NMR (CDCl3): δ 0.91 (t, 3H); 1.31-1.35 (m, 4H); 1.47 (d, 3H); 1.60-1.67 (m, 2H); 4.06-4.14 (m, 2H); 4.84-4.91 (m, 1H); 5.42-5.49 (m, 2H).

reactant | Et3N | 26.9 mmol, 3.75 mL | CCN(CC)CC | C6H15N
reactant | (2R,3S)-3-hydroxy-2-{[(pentyloxy)carbonyl]amino}butanoic acid | 8.96 mmol, 2 g | O[C@H]([C@H](C(=O)O)NC(=O)OCCCCC)C | C10H19NO5
reactant | PyBOP | 11.6 mmol, 6.1 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | pentyl-[(2S,3R)-2-methyl-4-oxooxetan-3-yl]-carbamate | 0.434 g, 22.5% | C(CCCC)OC(N[C@@H]1[C@@H](OC1=O)C)=O | C10H17NO4
